US04931568
3-Dodecyloxy-4-methylthiophene
40 g of 3-methoxy-4-methylthiophene were dissolved in 120 cm3 of toluene together with 120 g of 1-dodecanol, and the solution was refluxed with 2 g of NaHSO4. 19 ml of a methanol/toluene mixture were separated off over a period of 3 hours. The solution was washed with water until neutral, dried over MgSO4 and subsequently fractionated. At 141° to 143° C. and 0.013 mbar, 55.6 g of 3-dodecyloxy-4-methylthiophene distilled over. 97% pure by GC, which corresponds to 63% of the theoretical yield. The substance was characterized by mass spectrum and 1H-NMR.

reactant | 3-methoxy-4-methylthiophene | 40 g | COC1=CSC=C1C | C6H8OS
reactant | 1-dodecanol | 120 g | C(CCCCCCCCCCC)O | C12H26O
reactant | NaHSO4 | 2 g | OS(=O)(=O)[O-].[Na+]
solvent | toluene | 120 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3-Dodecyloxy-4-methylthiophene | C(CCCCCCCCCCC)OC1=CSC=C1C | C17H30OS
